US05705456
a) 2,2-Bis(chloromethyl)propanoyl chloride
DMF (1 drop) was added to a solution of 2,2-bis(chloromethyl)propanoic acid (1.4 g) in DCM (1.5 ml), the solution was cooled to 0° C. and oxalyl chloride (0.75 ml) added. After gas evolution had stopped the mixture was concentrated in vacuo to give the sub-title compound as a yellow oil (1.51 g) which was used directly in the next step.

reactant | 2,2-bis(chloromethyl)propanoic acid | 1.4 g | ClCC(C(=O)O)(C)CCl | C5H8Cl2O2
reactant | oxalyl chloride | 0.75 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Bis(chloromethyl)propanoyl chloride | 1.51 g | ClCC(C(=O)Cl)(C)CCl | C5H7Cl3O
